US07338959B2
5-Amino-N-methoxy-2-methylbenzenesulfonamide
N-Methoxy-2-methyl-5-nitrobenzenesulfonamide (0.5 g, 2 mmol) was combined with 10% palladium on carbon (0.05 g), ethanol (10 mL), and hydrazine (1 mL) and heated at reflux for 18 h. The solution was filtered through celite, concentrated, and purified on silica gel with methanol in dichloromethane. Product was an off white solid (0.28 g, 1.3 mmoL). 1H NMR (300 MHz, d6-DMSO) δ10.3 (s, 1H), 7.11 (s, 1H), 7.02 (d, J=8.2 Hz, 1H), 6.7 (d, J=8.2 Hz, 1H), 5.37 (s, 2H), 3.57 (s, 3H), 2.38 (s, 3H).

reactant | N-Methoxy-2-methyl-5-nitrobenzenesulfonamide | 2 mmol, 0.5 g | CONS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])C | C8H10N2O5S
reactant | hydrazine | 1 mL | NN | H4N2
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-Amino-N-methoxy-2-methylbenzenesulfonamide | NC=1C=CC(=C(C1)S(=O)(=O)NOC)C | C8H12N2O3S
